US07087626B2
[6-(3-Quinolin-4-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-2-yl)-pyridin-2-yl]-methanol
To a solution of 6-(3-quinolin-4-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-2-yl)pyridine-2-carboxylic acid methyl ester (0.550 g, 1.48 mmol) in methanol (20 mL) is added lithium borohydride (35.5 mg, 1.63 mmol). The mixture is stirred 1 h, additional lithium borohydride (35.5 mg, 1.63 mmol) added, and the resulting mixture stirred at room temperature for 16 h. 4 N Hydrochloric acid (3 mL) is added slowly and the resulting mixture concentrated in vacuo. The residue is taken up in methanol (10 mL) and partitioned between ethyl acetate (150 mL) and saturated potassium carbonate (150 mL). The organic portion is washed with brine (150 mL), dried (magnesium sulfate), and a concentrated in vacuo. The residue is precipitated from ethyl acetate with hexanes to yield 296 mg (58%) of the title compound.

reactant | 6-(3-quinolin-4-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-2-yl)pyridine-2-carboxylic acid methyl ester | 1.48 mmol, 0.550 g | COC(=O)C1=NC(=CC=C1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC=CC=C21 | C22H18N4O2
reactant | lithium borohydride | 1.63 mmol, 35.5 mg | [BH4-].[Li+]
reactant | lithium borohydride | 1.63 mmol, 35.5 mg | [BH4-].[Li+]
reactant | Hydrochloric acid | 4 N, 3 mL | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | [6-(3-Quinolin-4-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-2-yl)-pyridin-2-yl]-methanol | 296 mg, 58% | N1=CC=C(C2=CC=CC=C12)C1=C2N(N=C1C1=CC=CC(=N1)CO)CCC2 | C21H18N4O
